2185-12-02 07:47:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4944**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   No events o/n
   Allergies:
   PenicillinsUnknown; Hives;
   AspirinHives;
   Lipitor (Oral) (Atorvastatin Calcium)
   hair loss;
   Glucophage (Oral) (Metformin Hcl)
   hair loss;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-12-1**] 10:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-12-2**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 72 (67 - 80) bpm
   BP: 147/71(89) {122/66(58) - 163/92(109)} mmHg
   RR: 11 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    481 mL
                                                                  1,230 mL
   PO:
           TF:
   IVF:
                                                                    236 mL
                                                                    775 mL
   Blood products:
                                                                    245 mL
                                                                    455 mL
   Total out:
                                                                    400 mL
                                                                    400 mL
   Urine:
                                                                    400 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     81 mL
                                                                    830 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Wearing CPAP mask
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: RLQ tenderness with rebound, Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   387 K/uL
   8.5 g/dL
   162 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.8 mEq/L
   11 mg/dL
   103 mEq/L
   140 mEq/L
   29.5 %
   5.3 K/uL
        [image002.jpg]
                            [**2185-12-1**]  08:18 PM
                            [**2185-12-2**]  03:47 AM
   WBC
   5.3
   5.3
   Hct
   23.1
   29.5
   Plt
   403
   387
   Cr
   0.9
   Glucose
   162
   Other labs: PT / PTT / INR:15.1/22.8/1.3, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   This is a 54 year old female with hx GIB from Upper GI AVM's, on
   coumadin for extensive DVT s/p IVC filter, DM, Asthma, OSA who presents
   with 2 days of dark stools, lightheadedness, decreased HCT concerning
   for recurrent GIB.
   .
   # Acute on Chronic Blood Loss anemia: likely due to repeat upper GI
   bleeding from AVMs as has had recurrent GIB from AVM's in the past. BP
   stable, HR stable but on BB at home. She has now received one unit FFP
   and Vit K 10mg in the ED to reverse her coumadin/INR.
   -- appreciate GI consult
   -- will transfuse 2 units pRBCs tonight
   -- check q8 HCT (post transfusion and in AM)
   -- maintain adequte access (2 PIVs) and active T+S at all times
   -- coumadin reversed in ED, INR now 1.6
   -- keep NPO for EGD in AM
   -- hold lasix, BB, isosorbide, lisinopril
   .
   # Hx DVT:
   -- coumadin reversed in [**Last Name (LF) **], [**First Name3 (LF) 178**] be difficult to anticoagulate in near
   future
   -- has IVC filter in place
   -- no anticoag for now
   .
   # Asthma: still smoking
   -- cont albuterol and flovent
   -- cont nicotine patch
   .
   # OSA:
   -- CPAP at night with 2L O2 per home settings
   .
   # DM:
   -- is on 75mg of glargine at noon and bedtime, 80% if NPO, with HISS
   -- FSG qid
   .
   # HTN
   -- hold all antihypertensives inclusing metoprolol, lisinopril, imdur,
   and lasix
   .
   # Chronic pain: [**2-21**] neuropathy
   -- cont oxycodone and gabapentine
   -- cont cymbalta
   .
   # Delayed gastric emptying:
   -- cont reglan
   .
   # hypercholesterolemia:
   -- cont simvastatin
   ICU Care
   Nutrition: NPO for EGD in AM
   Glycemic Control: Regular insulin sliding scale
   Lines:
   18 Gauge - [**2185-12-1**] 07:27 PM
   20 Gauge - [**2185-12-1**] 07:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2185-12-02 09:30:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 year old woman with hx of multiple UGI bleed from AVM's stomach,
   duodenum, jejunum. Hx of DVT treated with coumadin and IVC filter.
   Presents today with dark stool and lightheaded feeling (orthostatic).
   No nausea, vomiting, hemetemesis. Seen by PCP [**Name Initial (PRE) 1645**]. Sent to ED.
   Hgb 7.3 in the PCP's office with INR 2.5. BP was 110/60 sitting.
   In ED, BP was normal with HR 56. O2 sats 97% with 2L supplemental
   oxygen. Stools guaiac positive (brown stool). Hct 27. NG tube and
   lavage was clear. Patient given FFP and vitamin K. Abdominal CT
   negative. Transferred to MICU.
   24 Hour Events:
   Transfused 2 u pRBCs; hct 23 to 29, INR 1.3
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown; Hives;
   Aspirin
   Hives;
   Lipitor (Oral) (Atorvastatin Calcium)
   hair loss;
   Glucophage (Oral) (Metformin Hcl)
   hair loss;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-12-1**] 10:38 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia, Coagulopathy
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-12-2**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 72 (67 - 80) bpm
   BP: 147/71(89) {122/66(58) - 163/92(109)} mmHg
   RR: 11 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    481 mL
                                                                  1,255 mL
   PO:
           TF:
   IVF:
                                                                    236 mL
                                                                    800 mL
   Blood products:
                                                                    245 mL
                                                                    455 mL
   Total out:
                                                                    400 mL
                                                                    400 mL
   Urine:
                                                                    400 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     81 mL
                                                                    855 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, crowded posterior oropharynx
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   387 K/uL
   162 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.8 mEq/L
   11 mg/dL
   103 mEq/L
   140 mEq/L
   29.5 %
   5.3 K/uL
        [image002.jpg]
                            [**2185-12-1**]  08:18 PM
                            [**2185-12-2**]  03:47 AM
   WBC
   5.3
   5.3
   Hct
   23.1
   29.5
   Plt
   403
   387
   Cr
   0.9
   Glucose
   162
   Other labs: PT / PTT / INR:15.1/22.8/1.3, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:3.9 mg/dL
   Imaging: CXR:  streakiness at bases/right heart border
   CT abdomen:  no acute process identified
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):
   hemodynamically stable overnight.  Appropriate hct bump with
   transfusion of 2 u pRBCs.  Back at baseline hct.  GI to scope this
   morning.  Holding antihypertensives, coumadin stopped.  Serial CBCs.
 ANEMIA:  Chronic GI blood loss.
 DIABETES MELLITUS (DM), TYPE I:  RISS for hyperglycemia, continue
   glargine.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY: Coumadin on hold in
   setting of GIB.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Continue current regimen.
 ASTHMA: Stable.  Continue flovent and albuterol.  Nicotine patch
   given she continues to smoke.
 OSA: Tolerating CPAP at night, had been recommended to increase to
   18.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2185-12-1**] 07:27 PM
   20 Gauge - [**2185-12-1**] 07:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2185-12-03 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Hct stable (28.0 in afternoon, 28.5 at night).
   Allergies:
   Penicillins
   Unknown; Hives;
   Aspirin
   Hives;
   Lipitor (Oral) (Atorvastatin Calcium)
   hair loss;
   Glucophage (Oral) (Metformin Hcl)
   hair loss;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-12-2**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-12-3**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 93 (70 - 93) bpm
   BP: 164/78(99) {116/56(70) - 169/92(114)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.8 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  3,155 mL
                                                                    730 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  2,400 mL
                                                                    730 mL
   Blood products:
                                                                    455 mL
   Total out:
                                                                  1,150 mL
                                                                  1,200 mL
   Urine:
                                                                  1,150 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,005 mL
                                                                   -470 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, obese African American female in
   NAD
   Eyes  PERRLA, no conj edema or scleral icterus
   Head, Ears, Nose, Throat:  normocephalic, o/p dry, poor dentition
   CV: normal S1, S2 no murmurs appreciated, regular rate and rhythm
   Respiratory / Chest: symmetric, clear anterior and lateral exam without
   wheeze or crackles
   Abdominal: Soft, obese, +distended, , Bowel sounds present TTO RLQ w/
   some rebound, vol guarding, diffuse epigastric tenderness
   Extremities: no B/L LE edema, no cyanosis or clubbing, robust distal
   pulses
   Neurologic: A&Ox3, pleasant appropriate
   Labs / Radiology
   397 K/uL
   8.8 g/dL
   160 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   8 mg/dL
   103 mEq/L
   139 mEq/L
   30.6 %
   5.1 K/uL
        [image002.jpg]
                            [**2185-12-1**]  08:18 PM
                            [**2185-12-2**]  03:47 AM
                            [**2185-12-2**]  12:21 PM
                            [**2185-12-2**]  07:44 PM
                            [**2185-12-3**]  04:20 AM
   WBC
   5.3
   5.3
   5.1
   Hct
   23.1
   29.5
   28.0
   28.5
   30.6
   Plt
   [**Telephone/Fax (3) 10837**]
   Cr
   0.9
   0.8
   Glucose
   162
   160
   Other labs: PT / PTT / INR:13.4/22.5/1.1, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 8194**] is a 54 year old female with hx GIB from Upper GI AVM's,
   w/ multiple GI studies, on coumadin for extensive DVT s/p IVC filter,
   DM, Asthma, OSA who presents with 2 days of dark stools,
   lightheadedness, decreased HCT concerning for recurrent GIB.
   .
   # Acute on Chronic Blood Loss anemia: likely due to repeat upper GI
   bleeding from AVMs as has had recurrent GIB from AVM's in the past. BP
   stable, HR stable but on BB at home. She has now received one unit FFP
   and Vit K 10mg in the ED to reverse her coumadin/INR. Concern for
   hereditary telangiectasias are raised such as Osler-[**Doctor Last Name 643**]-Rendu
   syndrome.
   -- appreciate GI consult
   -- pt is s/p 2u pRBC w appropriate rise in HCT
   -- plan for EGD today
   -- maintain adequte access (2 PIVs) and active T+S at all times
   -- coumadin reversed in ED, INR now 1.6
   -- hold lasix, BB, isosorbide, lisinopril
   -- c/o to floor s/p EGD
   .
   # Hx DVT:
   -- coumadin reversed in [**Last Name (LF) **], [**First Name3 (LF) 178**] be difficult to anticoagulate in near
   future
   -- has IVC filter in place
   -- no anticoag for now
   .
   # Asthma: still smoking
   -- cont albuterol and flovent
   -- cont nicotine patch
   .
   # OSA:
   -- CPAP at night with 2L O2 per home settings
   .
   # DM:
   -- is on 75mg of glargine at noon and bedtime, 80% if NPO, with HISS
   -- FSG qid
   .
   # HTN
   -- hold all antihypertensives inclusing metoprolol, lisinopril, imdur,
   and lasix
   .
   # Chronic pain: [**2-21**] neuropathy
   -- cont oxycodone and gabapentine
   -- cont cymbalta
   .
   # Delayed gastric emptying:
   -- cont reglan
   .
   # hypercholesterolemia:
   -- cont simvastatin
   ICU Care
   Nutrition: NPO for EGD in AM
   Glycemic Control: Regular insulin sliding scale
   Lines:
   18 Gauge - [**2185-12-1**] 07:27 PM
   20 Gauge - [**2185-12-1**] 07:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2185-12-03 11:15:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   Hct stable
   No procedure per GI
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown; Hives;
   Aspirin
   Hives;
   Lipitor (Oral) (Atorvastatin Calcium)
   hair loss;
   Glucophage (Oral) (Metformin Hcl)
   hair loss;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-12-3**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-12-3**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 107 (70 - 107) bpm
   BP: 183/87(110) {141/63(83) - 183/92(114)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 114.8 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  3,155 mL
                                                                  1,952 mL
   PO:
                                                                    300 mL
                                                                    370 mL
   TF:
   IVF:
                                                                  2,400 mL
                                                                  1,582 mL
   Blood products:
                                                                    455 mL
   Total out:
                                                                  1,150 mL
                                                                  1,850 mL
   Urine:
                                                                  1,150 mL
                                                                  1,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,005 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : occasional basilar,
   clear with deep breathing, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   397 K/uL
   160 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   8 mg/dL
   103 mEq/L
   139 mEq/L
   30.6 %
   5.1 K/uL
        [image002.jpg]
                            [**2185-12-1**]  08:18 PM
                            [**2185-12-2**]  03:47 AM
                            [**2185-12-2**]  12:21 PM
                            [**2185-12-2**]  07:44 PM
                            [**2185-12-3**]  04:20 AM
   WBC
   5.3
   5.3
   5.1
   Hct
   23.1
   29.5
   28.0
   28.5
   30.6
   Plt
   [**Telephone/Fax (3) 10837**]
   Cr
   0.9
   0.8
   Glucose
   162
   160
   Other labs: PT / PTT / INR:13.4/22.5/1.1, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  Stable hct.
 ASTHMA:  Continue inhalers.
 DIABETES MELLITUS (DM), TYPE I:  Glargine and RISS.  Diabetic diet.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Adequate.
 HYPERTENSION, BENIGN:  Restart antihypertensives.
 OBSTRUCTIVE SLEEP APNEA (OSA):  CPAP at night.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY:  IVC filter.  Off
   coumadin, given bleeding history may consider stopping.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-12-1**] 07:27 PM
   20 Gauge - [**2185-12-1**] 07:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes